US05925717
0.96 gram TiCl4 (5.07 mmol) were dissolved in 40 ml of CH2Cl2 cooled to -40° C., and then 1.36 grams of bis-(1-indenyl)ethylene bis-lithium (5.07 mmol) were added as a solid. After stirring for 2 h at room temperature, the reaction mixture was centrifuged to remove LiCl. The CH2Cl2 layer was evaporated to dryness giving (1-indenyl)ethylene titanium dichloride as brown crystals which were washed twice with hexane.

reactant | TiCl4 | 5.07 mmol, 0.96 gram | Cl[Ti](Cl)(Cl)Cl
reactant | bis-(1-indenyl)ethylene bis-lithium | 5.07 mmol, 1.36 grams | C1(C=CC2=CC=CC=C12)C(C([Li])C1C=CC2=CC=CC=C12)[Li]
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | (1-indenyl)ethylene titanium dichloride | [Cl-].[Cl-].[Ti+2].C1(C=CC2=CC=CC=C12)C=C | InChI=1S/C11H10.2ClH.Ti/c1-2-9-7-8-10-5-3-4-6-11(9)10;;;/h2-9H,1H2;2*1H;/q;;;+2/p-2
